US06541655B2
General Procedure B; Toluene/THF 1:1 as Solvent
A solution of Mo(CO)3(EtCN)3 and ligand in toluene was heated at 60-70° C. for 1 h. A solution of sodiomalonate (prepared by adding the malonate to sodium hydride (60% dispersion in oil)) and the substrate in THF was added dropwise via syringe at 60° C. and the mixture was heated at 80-90° C. for the time indicated. The reaction mixture was diluted with ether (5 mL) and water (5 mL) was added. The layers were separated and the aqueous layer was extracted with ether (3×10 mL). The combined organic layers were washed with brine (10 mL), dried over magnesium sulfate and the solvent removed in vacuo. Flash chromatography (with the solvent system indicated) afforded the product as a mixture of the two regioisomers.

reactant | sodiomalonate | [Na]C(C(=O)[O-])C(=O)[O-]
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
reactant | sodium hydride | [H-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | water | 5 mL | O | H2O
product | Toluene THF | C1(=CC=CC=C1)C.C1CCOC1 | InChI=1S/C7H8.C4H8O/c1-7-5-3-2-4-6-7;1-2-4-5-3-1/h2-6H,1H3;1-4H2
